US07645771B2
b) Preparation of methyl 3-{bis[(trifluoromethyl)sulfonyl]amino}benzoate
Triflic anhydride (3.73 g, 13.2 mmol) was added dropwise to a solution of methyl 3-amino-benzoate (2.0 g, 13.2 mmol) and DIEA (2.3 ml) in dichloromethane (50 ml) at 0° C. while stirring under a nitrogen atmosphere. After warming to room temperature over 1 hour, the thick slurry was diluted with additional dichloromethane (200 ml) and washed with aqueous 1 N hydrochloric acid and the water. The dichloromethane layer was dried with MgSO4 and the volatiles were removed by spin evaporation in vacuo to give methyl 3-bis[(trifluoromethyl)sulfonyl]amino}benzoate as a tan oil (5.4 g, 100%). 1H-NMR (400 MHz, DMSO-d6): δ 7.73-7.65 (m, 2H), 7.55-7.50 (m, 1H), 7.44-7.36 (m, 1H), 3.95 (s, 3H). ES-LCMS m/z 416 (M+H).

reactant | Triflic anhydride | 13.2 mmol, 3.73 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | methyl 3-amino-benzoate | 13.2 mmol, 2.0 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | DIEA | 2.3 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | methyl 3-{bis[(trifluoromethyl)sulfonyl]amino}benzoate | FC(S(=O)(=O)N(C=1C=C(C(=O)OC)C=CC1)S(=O)(=O)C(F)(F)F)(F)F | C10H7F6NO6S2
